US07179812B2
{2-[2-(4-Trifluoromethoxy-phenyl)-vinyl]-oxazol-4-yl}-methanol (0.097 g, 0.34 mmol) is dissolved in anhydrous tetrahydrofuran (THF) (4 ml) followed by addition of sodium tert-butoxide (NaOtBu) (0.040 g, 0.41 mmol). After stirring for 15 min at r.t. 2-chloro-5-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine (0.090 g, 0.38 mmol) is added slowly and stirred for further 1.5 h at r.t. Ethyl acetate (20 ml) is added; the mixture is washed with saturated ammonium chloride (NH4Cl), dried over MgSO4 and concentrated in vacuo. After flash column chromatography (ethyl acetate) 5-(4-[1,2,3]triazol-1-yl-butyl)-2-{2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine is obtained as a colorless solid. Yield 0.104 g (63%).

reactant | {2-[2-(4-Trifluoromethoxy-phenyl)-vinyl]-oxazol-4-yl}-methanol | 0.34 mmol, 0.097 g | FC(OC1=CC=C(C=C1)C=CC=1OC=C(N1)CO)(F)F | C13H10F3NO3
reactant | sodium tert-butoxide | 0.41 mmol, 0.040 g | CC(C)([O-])C.[Na+]
reactant | 2-chloro-5-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine | 0.38 mmol, 0.090 g | ClC1=NC=C(C=N1)CCCCN1N=NC=C1 | C10H12ClN5
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 5-(4-[1,2,3]triazol-1-yl-butyl)-2-{2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine | N1(N=NC=C1)CCCCC=1C=NC(=NC1)OCC=1N=C(OC1)C=CC1=CC=C(C=C1)OC(F)(F)F | C23H21F3N6O3
